US06613743B2
A solution of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[4-(benzyloxy)phenyl]sulfonyl}(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate (222 mg, 0.384 mmol) in 3:1 absolute ethanol:ethyl acetate was combined with Palladium on carbon (10 wt %, 44 mg) and reduced under an atmosphere of Hydrogen gas over 16 hours. The reaction was filtered and evaporated in vacuo. The residue was purified on flash grade silica gel eluting with 3:2 ethyl acetate:hexane. Fractions containing the product were combined and evaporated in vacuo. The residue was triturated with water, filtered and dried under high vacuum to provide (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(4-hydroxyphenyl)sulfonyl]amino}-2-hydroxypropylcarbamate (103 mg, 46%) as a white solid. H1-NMR (chloroform-D3): 0.91 (m, 6H), 1.61 (m, 7H), 2.93 (m, 5H), 3.70 (m, 2H), 3.92 (m, 4H), 4.17 (m, 1H), 4.79 (d, 1H), 5.01 (m, 1H), 5.66 (d, 1H), 6.12 (s, 1H), 6.94 (d, 2H), 7.26 (m, 5H), 7.72 (d, 2H). MS(ESI): 601(M+Na).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-[{[4-(benzyloxy)phenyl]sulfonyl}(1-ethylpropoxy)amino]-2-hydroxypropylcarbamate | 0.384 mmol, 222 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(OC(CC)CC)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C35H44N2O9S
reactant | ethanol | C(C)O | C2H6O
catalyst | Palladium on carbon | 44 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-1-benzyl-3-{(1-ethylpropoxy)[(4-hydroxyphenyl)sulfonyl]amino}-2-hydroxypropylcarbamate | 103 mg, 46% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)O)OC(CC)CC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C28H38N2O9S
